US07732444B2
Intermediate 61: 4-[2-(4-Chloro-pyrimidin-2-ylamino)-ethyl]-phenol:
2,4 dichloropyrimidine (1.49 g) was dissolved in DMF along with diisopropylethylmine (1.29 g) and tyramine (1.37 g.) The mixture was stirred at room temperature overnight. The mixture was partitioned between ethyl acetate and water and the organic layer washed with 1 N HCl followed by saturated NaHCO3 and brine. The solvent was removed and the residue subjected to flash chromatography (ethyl acetate as eluent.) 4-[2-(4-Chloro-pyrimidin-2-ylamino)-ethyl]-phenol eluted first and was isolate as a minor product (15% yield.) LC-MS showed the product had the expected M+H+ of 250.

reactant | 2,4 dichloropyrimidine | 1.49 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | tyramine | 1.37 g | NCCC1=CC=C(C=C1)O | C8H11NO
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-[2-(4-Chloro-pyrimidin-2-ylamino)-ethyl]-phenol | 15% yield | ClC1=NC(=NC=C1)NCCC1=CC=C(C=C1)O | C12H12ClN3O
